US07282588B2
N-{4-[4-bromo-1-(tetrahydro-2-furanylmethyl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea
To a solution of N-[4-(4-bromo-1H-pyrazol-3-yl)phenyl]-N′-phenylurea (0.28 mmol) in anhydrous N,N-dimethylformamide (6 mL) cooled to 0° C. was added 1.0M potassium tert-butoxide in tetrahydrofuran (1.12 mmol) dropwise. The reaction mixture was stirred for a further 15 minutes in the cold before dropwise addition of tetrahydrofuryl bromide (0.28 mmol). The reaction mixture was stirred at room temperature for 18 h, followed by quenching with saturated aqueous ammonium chloride (1 mL). The reaction mixture was diluted with water (3 mL) and extracted with ethyl acetate (3×5 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. Gilson reverse phase HPLC afforded the title compound (53%). ESMS [M+H]+: 441.4

reactant | N-[4-(4-bromo-1H-pyrazol-3-yl)phenyl]-N′-phenylurea | 0.28 mmol | BrC=1C(=NNC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C16H13BrN4O
reactant | potassium tert-butoxide | 1.0M | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 1.12 mmol | O1CCCC1 | C4H8O
reactant | tetrahydrofuryl bromide | 0.28 mmol | O1C(CCC1)Br | C4H7BrO
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | N-{4-[4-bromo-1-(tetrahydro-2-furanylmethyl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea | 53% | BrC=1C(=NN(C1)CC1OCCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C21H21BrN4O2
